US05430047
Step C: Preparation of 1,5-Bis-(4-fluorophenyl)-3-[3-(1H-tetrazol-5-yl)phenyl]-pentane-1,5-dione
A mixture of 3-[3-(4-fluorophenyl)-1-[2-(4-fluorophenyl)-2-oxoethyl]-3-oxopropyl]-benzonitrile (1 g, 2.1 mmol), trimethylsilylazide (0.48 g, 4.2 mmol), and dibutyltin oxide (0.05 g) is heated under N2 in toluene (25 mL) at 100° C. for 18 hours. The toluene is removed under vacuum and the residue is dissolved in a small amount of methanol. The methanol is removed under vacuum and the residue chromatographed over SiO2 eluting with dichloromethane:2-propanol (4:1). Pure fractions are combined, concentrated, and triturated with diethyl ether to provide 0.8 g of the title compound; mp 162°-164C.

reactant | 3-[3-(4-fluorophenyl)-1-[2-(4-fluorophenyl)-2-oxoethyl]-3-oxopropyl]-benzonitrile | 2.1 mmol, 1 g | FC1=CC=C(C=C1)C(CC(CC(=O)C1=CC=C(C=C1)F)C=1C=C(C#N)C=CC1)=O | C24H17F2NO2
reactant | trimethylsilylazide | 4.2 mmol, 0.48 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.05 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1,5-Bis-(4-fluorophenyl)-3-[3-(1H-tetrazol-5-yl)phenyl]-pentane-1,5-dione | 0.8 g | FC1=CC=C(C=C1)C(CC(CC(=O)C1=CC=C(C=C1)F)C1=CC(=CC=C1)C1=NN=NN1)=O | C24H18F2N4O2
